US05389663
Using bis[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butyl]disulfide (2.0 g), chlorine (0.31 g), 1-[4-[2-(2-butyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]piperazine-dihydrochloride (2.9 g) and triethylamine (3.18 ml), substantially the same reaction as in Working Example 15 was allowed to proceed to give a crude product of 1-[4-[2-(2-butyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]-4-[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butanesulfenyl]piperazine. This product was dissolved in acetone (100 ml), which was oxidized by adding a saturated aqueous solution of potassium permanganate (32 ml), followed by purification by means of a silica gel chromatography (eluent: ethyl acetate). As the first fraction, 1-[4-[2-(2-butyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl] phenyl]-4-[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butanesulfonyl]-1,2,3,4-tetrahydropyrazine (Compound 43, 37 mg) was obtained as a pale yellow solid substance. As the second fraction, 1-[4-[2-(2-butyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]-4-[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butane sulfonyl]piperazine (Compound 42, 743 mg) was obtained as colorless powder.

reactant | bis[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butyl]disulfide | 2.0 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)SS[C@H](C)[C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(CN1N=CN=C1)O | C24H24F4N6O2S2
reactant | chlorine | 0.31 g | ClCl | Cl2
reactant | 1-[4-[2-(2-butyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]piperazine-dihydrochloride | 2.9 g | Cl.Cl.CC(CC)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCNCC1
solvent | triethylamine | 3.18 ml | C(C)N(CC)CC | C6H15N
product | 1-[4-[2-(2-butyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]-4-[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butanesulfenyl]piperazine | CC(CC)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)S[C@H](C)[C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F | C28H34F2N8O2S
